US05116971
3.5 g (0.01 mol) of 8-carboxy-6-(2-chlorophenyl)-1-methyl[1,2,4]triazolo-[4,3-a][1,4]benzodiazepine are suspended in 40 ml of dichloromethane. While cooling in ice, 2.5 g (0.02 mol) of oxalyl chloride are added dropwise, and the mixture is stirred at room temperature for 2 hours. It is then concentrated and subsequently distilled twice with anhydrous chloroform. The crystalline residue is triturated with petroleum ether and filtered off with suction. 3.7 g (100%) of 8-chlorocarbonyl-6-(2-chlorophenyl)-1-methyl[1,2,4]- triazolo[4,3-a][1,4]benzodiazepine of melting point 295°-297° C. are obtained.

reactant | 8-carboxy-6-(2-chlorophenyl)-1-methyl[1,2,4]triazolo-[4,3-a][1,4]benzodiazepine | 0.01 mol, 3.5 g | C(=O)(O)C=1C=CC2=C(C(=NC=C3N2C(N=N3)C)C3=C(C=CC=C3)Cl)C1 | C18H13ClN4O2
reactant | oxalyl chloride | 0.02 mol, 2.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 8-chlorocarbonyl-6-(2-chlorophenyl)-1-methyl[1,2,4]- triazolo[4,3-a][1,4]benzodiazepine | 3.7 g, 100% | ClC(=O)C=1C=CC2=C(C(=NC=C3N2C(N=N3)C)C3=C(C=CC=C3)Cl)C1 | C18H12Cl2N4O
